US07884101B2
A solution of N-methylpyrazole (5.12 g, 62.4 mmol) in THF (100 mL) was cooled to −78° C. and 2.5 M n-butyllithium in hexane (27.5 mL, 68.8 mmol) was added. After stirring for 30 minutes at the same temperature, 0.5 M zinc chloride in THF (107 mL, 53.5 mmol) and 1 M zinc chloride in diethyl ether (15.3 mL, 15.2 mmol) were added. The mixture was allowed to warm to room temperature and 2-iodo-4-nitroanisole (17.4 g, 62.4 mmol) followed by tetrakis(triphenylphosphine)palladium (3.6 g, 3.1 mmol) were added. After stirring at 60° C. for 20 hours, the black solution was concentrated on a rotary evaporator, and extracted with ethyl acetate and brine. Combined organic layers were dried over magnesium sulfate, filtered, and partly concentrated until a solid started to precipitate. Hexane was added, precipitate was filtered off, and washed with a cold 3:1 mixture of hexane/ethyl acetate to give 5-(2-methoxy-5-nitro-phenyl)-1-methyl-1H-pyrazole (8.6 g, 36.9 mmol, 59%) as a tan solid. LCMS m/z (%/o)=234 (M+H, 100). 1H NMR (400 MHz, CDCl3) δ: 8.34 (dd, J=2.8, 9.2 Hz, 1H), 8.19 (d, J=2.8 Hz, 1H), 7.56 (d, J=2.0 Hz, 1H), 7.08 (d, J=9.2 Hz, 1H), 6.31 (d, J=1.6 Hz, 1H), 3.96 (s, 3H), 3.74 (s, 3H).

reactant | N-methylpyrazole | 62.4 mmol, 5.12 g | CN1N=CC=C1 | C4H6N2
reactant | n-butyllithium | 2.5 M | C(CCC)[Li]
reactant | hexane | 68.8 mmol, 27.5 mL | CCCCCC | C6H14
reactant | diethyl ether | 15.2 mmol, 15.3 mL | C(C)OCC | C4H10O
reactant | 2-iodo-4-nitroanisole | 62.4 mmol, 17.4 g | IC1=C(C=CC(=C1)[N+](=O)[O-])OC | C7H6INO3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | zinc chloride | 1 M | [Cl-].[Zn+2].[Cl-]
catalyst | zinc chloride | 0.5 M | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis(triphenylphosphine)palladium | 3.1 mmol, 3.6 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 53.5 mmol, 107 mL | C1CCOC1 | C4H8O
product | 5-(2-methoxy-5-nitro-phenyl)-1-methyl-1H-pyrazole | 36.9 mmol, 8.6 g, 59% | COC1=C(C=C(C=C1)[N+](=O)[O-])C1=CC=NN1C | C11H11N3O3
